parameters k=0.5

v1 (vin 0) vsource dc=5 type=dc
r1 (vin vout) resistor r=10k*(1-k)
r2 (vout 0) resistor r=10k*k

dcOp dc

save vin vout

modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile

