parameters vdc1 = 1
parameters vdc2 = 1
parameters vdc3 = 1

// out = vdc1 - vdc2 + 2*vdc3
v1 (1 0) vsource dc=vdc1
v2 (2 1) vsource dc=-vdc2
v3 (out 2) vsource dc=2*vdc3

dc1 dc param=vdc1 start=1 stop=9 lin=3

